US08460846B2
A four-necked round-bottom flask equipped with a stirrer, a thermocouple, and a nitrogen inlet tube was charged with 1 mole of behenic acid per 1 mole of behenyl alcohol. The ingredients in the flask were heated at 130° C. for 3 hours under a nitrogen atmosphere, to carry out an esterification reaction. The reaction product was purified with methyl ether, to give behenyl behenate. Here, the resulting compound had an acid value of 0.1 mgKOH/g, and a hydroxyl value of 1.2 mgKOH/g.

reactant | behenic acid | 1 mole | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | behenyl alcohol | 1 mole | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
product | behenyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C44H88O2
